Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History of Present Illness:  
This is a ___ year-old genteman with h/o aortic stenosis s/p 
bovine valve replacement in ___ presenting with fever to 38.7 C 
and leg pain. Patient states he had neck pain about 1 week ago 
for which he went to a ___ who improved his symptoms. 
About 3 days prior he began having fevers up to 101 (per son). 
He would take tylenol during the fevers. He denied focal 
symptoms including cough, shortness of breath, dysuria, 
abdominal pain, diarrhea, constipation. Patient is outdoors much 
of the time and gardens frequently. Son states he rarely puts on 
bug spray and is careless with protecting his skin etc. He does 
not have any recent travel nor has he been in any lakes or other 
bodies of water. Denies IV drug use, recent dental work as well. 
No recent antibiotic exposure or sick contacts.  
Patient also states that he has had bilateral leg pain that 
began after the fevers as well. It was hard to describe the 
pain, but he says it is mild, ___ which starts at both of his 
feet and goes up to his knee. It is not worse or better at any 
particular time.  
In the ED, initial vital signs were 98.2 99 137/92 18 100%. Pt 
then spiked to 102.5. CXR did not show evidence of pneumonia. 
Patient was given acetaminophen 1000 mg x1. Labs were 
significant for a normal WBC of 5, UA with tr blood and protein, 
Cr 1.7 (last one in ___ 1.1). Blood cultures x 3, urine 
culture, and anaplasmosis serologies were sent off. CXR was 
unremarkable.  
 
Review of Systems:  
(+)  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
-Hypertension,  
-hypercholesterolemia  
-aortic stenosis  
-depression  
-prior hernia repair  

 
Social History:
___
Family History:
Mother died of complications following hernia repair. Father 
died of heart failure at ___.  

 
Physical Exam:
Admission Exam  
Vitals- 99.5 93 123/76 16 99%  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1, loud S2, no murmurs, 
rubs, gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. old scratches seen on posterior left calf  
Neuro- CNs2-12 intact, motor function grossly normal  

Discharge Exam:
Vitals: 98, 100, 115/75, 88, 22, 98% on RA
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1, loud S2, no murmurs, 
rubs, gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. old scratches seen on posterior left calf, ecchymosis on 
right upper arm.  
Neuro- CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
Admission Labs
___ 12:24PM   WBC-5.0 RBC-6.10 HGB-15.6 HCT-48.1 MCV-79* 
MCH-25.5* MCHC-32.4 RDW-13.7
___ 12:24PM   NEUTS-83.3* LYMPHS-11.0* MONOS-4.8 EOS-0.2 
BASOS-0.7
___ 12:24PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 12:24PM   PLT COUNT-120*#
___ 12:24PM   ALT(SGPT)-41* AST(SGOT)-56* ALK PHOS-99 TOT 
BILI-0.2
___ 12:24PM   estGFR-Using this
___ 12:24PM   GLUCOSE-126* UREA N-29* CREAT-1.7* SODIUM-139 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-24 ANION GAP-17
___ 02:26PM URINE  MUCOUS-FEW
___ 02:26PM URINE  HYALINE-4*
___ 02:26PM URINE  RBC-2 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-0

Discharge Labs
___ 07:40AM BLOOD WBC-5.7 RBC-5.01 Hgb-12.9* Hct-38.6* 
MCV-77* MCH-25.8* MCHC-33.5 RDW-13.5 Plt Ct-95*
___ 07:40AM BLOOD Glucose-102* UreaN-24* Creat-1.3* Na-136 
K-3.5 Cl-101 HCO3-22 AnGap-17

Parasite smear: INTRACELLULAR ORGANISMS SUSPICIOUS FOR ANAPLASMA

Micro:
___ 07:15    LYME DISEASE ANTIBODY, IMMUNOBLOT PND 
___ 21:30    SPOROTHRIX (SPOROTRICHOSIS) ANTIBODY PND 
___ 07:15    ANAPLASMA PHAGOCYTOPHILUM AND EHRLICHIA 
CHAFFEENSIS ANTIBODY PANEL (IGM AND IGG)  PND 
___ 07:15    ARBOVIRUS ANTIBODY IGM AND IGG PND 
___ 13:46    ANAPLASMA PHAGOCYTOPHILUM AND EHRLICHIA 
CHAFFEENSIS ANTIBODY PANEL (IGM AND IGG)  PND 

Reports
ECHO:
The left atrium is elongated. The right atrium is moderately 
dilated. Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Overall left ventricular systolic function is normal 
(LVEF 70%). Right ventricular chamber size and free wall motion 
are normal. The aortic root is mildly dilated at the sinus 
level. The ascending aorta is mildly dilated. A bioprosthetic 
aortic valve prosthesis is present. The aortic valve prosthesis 
appears well seated, with normal leaflet/disc motion and 
transvalvular gradients. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. The left 
ventricular inflow pattern suggests impaired relaxation. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 
IMPRESSION: Suboptimal image quality. No vegetations seen

Neck CT:
IMPRESSION:  
1. No fluid collection, inflammatory change or lymphadenopathy.  

2. Dilated distal ascending aorta, 4.3 cm; aortic arch not 
imaged. Recommend CTA chest to evaluate, if not already 
performed elsewhere. 
3. Atherosclerosis at left ICA origin with possible moderate 
stenosis, not adequately quantified as this is not a CTA. If 
clinically indicated, this could be assessed by carotid 
sonography. 
4. Multilevel cervical spondylosis; please correlate whether 
this may be the source of the patient's pain. 

 
Brief Hospital Course:
___ year-old genteman with h/o aortic stenosis s/p bovine valve 
replacement in ___ presenting with fever to 38.7 C and 
generalized myalgias x4 days. During hospitalization, patient 
was found to have parasite smear for anaplasma.  Patient was 
discharged home on 14 day course of doxycycline to treat both 
anaplasma and empirically for lyme disease as coinfection is 
common.  

ACTIVE ISSUES:
#Fevers: Given h/o aortic valve replacement endocarditis was 
considered as a possibility, but TTE did not show this.  
Serologies were sent for tick borne illness as pt spent 
significant time outdoors.  Cultures did not reveal infection.  
No evidence of pneumonia on CXR. Pt had neck CT to evaluate for 
abscess/neck infection given his neck mucsle pain (no meningeal 
signs), but this did not show signs of infection. Patient's 
parasite smear showed anaplasma and he was discharged on 14 day 
course of doxycycline to treat both anaplasma and empirically 
for lyme disease as coinfection is common. 

___: Cr is 1.7 up from 1.3 in ___. Likely prerenal in the 
setting of fevers (insensible losses).  On admission patient 
received 1L IVF bolus and creatinine improved to baseline. 
 
#Thrombocytopenia- 120 from 185. Decreased to ___ at discharge.  
Likely secondary to anaplasma infection.  Recommended patient 
have CBC rechecked at PCP's office this week. 
  
INACTIVE ISSUES:
#Aortic Stenosis: Stable. 
  
#Hypertension: Continued verapamil, aspirin 162 mg daily, 
doxazosin 1 mg daily 
 
#Hyperlipidemia: Continued statin  

#Depression: Continued effexor  

#Insomnia: Continued ambien    

TRANSITIONAL ISSUES:
- Pt with CT scan showing dilated ascending aorta.  Consider CTA 
as outpatiet to further evaluate.  This was communicated with 
the patient and his son and they will follow-up with his 
PCP/cardiologist to discuss further.  (ECHO showed mild 
dilitation of aortic root).  
- Pt needs CBC rechecked at PCP's office this week. 
- Lyme, sporothrix, anaplasma, arbovirus serologies pending at 
discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. verapamil *NF* 240 mg Oral daily 
2. Zolpidem Tartrate 5 mg PO HS 
3. Donepezil 10 mg PO HS 
4. Lorazepam 0.5 mg PO DAILY anxiety 
5. Hydrochlorothiazide 12.5 mg PO DAILY 
6. Potassium Chloride 10 mg PO DAILY 
Hold for K > 
7. Doxazosin 1 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Aspirin 162 mg PO DAILY 
10. Simvastatin 40 mg PO DAILY 
11. Venlafaxine XR 150 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 162 mg PO DAILY 
2. Donepezil 10 mg PO HS 
3. Doxazosin 1 mg PO DAILY 
4. Lorazepam 0.5 mg PO DAILY anxiety 
5. Omeprazole 20 mg PO DAILY 
6. Simvastatin 40 mg PO DAILY 
7. Venlafaxine XR 150 mg PO DAILY 
8. Zolpidem Tartrate 5 mg PO HS 
9. Doxycycline Hyclate 100 mg PO Q12H Duration: 10 Days 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*27 Capsule Refills:*0
10. Hydrochlorothiazide 12.5 mg PO DAILY 
11. Potassium Chloride 10 mg PO DAILY 
12. Verapamil *NF* 240 mg ORAL DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
-Erlichiosis/Anaplasmosis

Secondary
-Aortic stenosis status post valve replacement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted for fevers, leg pain, and neck pain.  We 
obtained an extensive infectious workup which revealed 
erlichiosis or anaplasmosis, an infection of the blood cells. 

Please take 2 weeks of antibiotics as prescribed. 
 
Followup Instructions:
___